US08871782B2
A modification of the general method described in Part J of Example 1 was followed using 8-benzyloxy-2-butyl-1-methyl-1H-imidazo[4,5-c]quinoline (14.65 g, 42.4 mmol) in lieu of 7-benzyloxy-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine. The reaction was placed under hydrogen pressure for 3.5 hours. The catalyst was removed by filtration and washed with ethyl acetate. The filtrate was concentrated under reduced pressure to a small volume, and hexanes were added. A precipitate formed, and the mixture was stored overnight in a refrigerator. The solid was isolated by filtration, washed with hexanes (500 mL), and dried for three days under high vacuum to provide 9.40 g of 2-butyl-1-methyl-1H-imidazo[4,5-c]quinolin-8-ol as a white solid, mp 219-220.2° C.

reactant | 8-benzyloxy-2-butyl-1-methyl-1H-imidazo[4,5-c]quinoline | 42.4 mmol, 14.65 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(C=NC2C=C1)N=C(N3C)CCCC | C22H23N3O
reactant | 7-benzyloxy-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC(C)C)CCC | C24H28N4O
product | 2-butyl-1-methyl-1H-imidazo[4,5-c]quinolin-8-ol | 9.40 g | C(CCC)C=1N(C2=C(C=NC=3C=CC(=CC23)O)N1)C | C15H17N3O
